US04131611
In a three-necked flask fitted with a Nichrome stirrer and a reflux condenser is placed 7.0 g of ethyl 3,4-dichlorophenylacetate, 5.9 g of N-bromosuccinimide, 0.1 g of benzoyl peroxide and 150 ml of carbon tetrachloride. The reaction mixture is heated at reflux for 18 hours, cooled and filtered. The carbon tetrachloride filtrate is concentrated under reduced pressure to give a deep orange liquid. Vacuum distillation at 115°-120° C. (0.5 mm) gives ethyl α-bromo-3,4-dichlorophenylacetate as a pale yellow liquid.

reactant | ethyl 3,4-dichlorophenylacetate | 7.0 g | ClC=1C=C(C=CC1Cl)CC(=O)OCC | C10H10Cl2O2
reactant | N-bromosuccinimide | 5.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl α-bromo-3,4-dichlorophenylacetate | BrC(C(=O)OCC)C1=CC(=C(C=C1)Cl)Cl | C10H9BrCl2O2
